US05597922
An adaptation of the method of Burrell et al., J. Chem. Soc. Perkin I. 2707 (1973), was used. A mixture of 4,5-dichloro-1,2-phenylenediamine (354 mg, 2.00 mmol; Aldrich Co.) and ethyl thiooxamate (333 mg, 2.50 mmol; Aldrich Co.) in 5 mL of ethanol was heated to reflux. The resulting brown solution was stirred under reflux for 10 h. The resulting brown suspension was cooled down to 25° C. A brown precipitate appeared. The mixture was vacuum filtered and the brown solid was washed with EtOH (5×2 mL) and dried in vacuum at 60° C. overnight to yield 92 mg (20%) of 6,7-dichloro-3-aminoquinoxalin-2(1H)-one: mp dec.>350° C. 1H NMR (300 MHz, DMSO-d6) δ 12.261 (br s, 1H, NH), 7.421 (s, 1H, H-5), 7.252 (s, 1H, H-8). Mass: calcd. for C8H5Cl2N3O (M+) M/z 228.9810, found 228.9820.

reactant | 4,5-dichloro-1,2-phenylenediamine | 2.00 mmol, 354 mg | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | ethyl thiooxamate | 2.50 mmol, 333 mg | C(C(=O)N)(=S)OCC | C4H7NO2S
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 6,7-dichloro-3-aminoquinoxalin-2(1H)-one | 92 mg, 20% | ClC=1C=C2N=C(C(NC2=CC1Cl)=O)N | C8H5Cl2N3O
